US08809267B2
To a solution of 1-methyl-cyclopropanol (1.25 g, 17.4 mmol) in acetonitrile (44 mL) was added carbonic acid bis-(2,5-dioxo-pyrrolidin-1-yl)ester (6.68 g, 26.1 mmol) and triethylamine (7.3 mL, 52.3 mmol). The reaction was stirred at room temperature for 21 h. The reaction mixture was diluted with EtOAc and washed with saturated aqueous NaHCO3 (2×) and brine. The organic layer was dried over MgSO4 and concentrated. The crude product was purified by column chromatography on silica (15→50%→100% Hex/EtOAc) to provide carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 1-methyl-cyclopropyl ester (722.8 mg, 19%): 1H NMR (CDCl3, 300 MHz) δ 2.83 (s, 4H), 1.63 (s, 3H), 1.10 (m, 2H), 0.73 (m, 2H).

reactant | 1-methyl-cyclopropanol | 17.4 mmol, 1.25 g | CC1(CC1)O | C4H8O
reactant | carbonic acid bis-(2,5-dioxo-pyrrolidin-1-yl)ester | 26.1 mmol, 6.68 g | O=C1N(C(CC1)=O)OC(ON1C(CCC1=O)=O)=O | C9H8N2O7
reactant | triethylamine | 52.3 mmol, 7.3 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 44 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 1-methyl-cyclopropyl ester | 722.8 mg, 19% | CC1(CC1)OC(ON1C(CCC1=O)=O)=O | C9H11NO5
